### PR TITLE
[Merged by Bors] - chore: migrate from `List.removeNth` to `List.eraseIdx`

### PR DESCRIPTION
**Pull request by urkud**
---

- [x] depends on: leanprover/std4#781

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/List.lean [hunk 1]
```diff
@@ -215,17 +219,21 @@ theorem continuous_insertNth {n : ℕ} {i : Fin (n + 1)} {f : β → α} {g : β
...
+#align vector.continuous_at_remove_nth Vector.continuousAt_eraseIdx
+
+@[deprecated] alias continuousAt_removeNth := continuousAt_eraseIdx -- 2024-05-04
+
+theorem continuous_eraseIdx {n : ℕ} {i : Fin (n + 1)} :
+    Continuous (eraseIdx i : Vector α (n + 1) → Vector α n) :=
+  continuous_iff_continuousAt.mpr fun ⟨_a, _l⟩ => continuousAt_eraseIdx
+#align vector.continuous_remove_nth Vector.continuous_eraseIdx
+
+@[deprecated] alias continuous_removeNth := continuous_eraseIdx -- 2024-05-04
```
Comment (semorrison) [inline Mathlib/Topology/List.lean:237]:
```suggestion
@[deprecated (since := "2024-05-04")] alias continuous_removeNth := continuous_eraseIdx
```

File: Mathlib/Topology/List.lean [hunk 2]
```diff
@@ -215,17 +219,21 @@ theorem continuous_insertNth {n : ℕ} {i : Fin (n + 1)} {f : β → α} {g : β
...
-theorem continuous_removeNth {n : ℕ} {i : Fin (n + 1)} :
-    Continuous (removeNth i : Vector α (n + 1) → Vector α n) :=
-  continuous_iff_continuousAt.mpr fun ⟨_a, _l⟩ => continuousAt_removeNth
-#align vector.continuous_remove_nth Vector.continuous_removeNth
+    rw [ContinuousAt, eraseIdx, tendsto_subtype_rng]
+    simp only [Vector.eraseIdx_val]
+    exact Tendsto.comp List.tendsto_eraseIdx continuousAt_subtype_val
+#align vector.continuous_at_remove_nth Vector.continuousAt_eraseIdx
+
+@[deprecated] alias continuousAt_removeNth := continuousAt_eraseIdx -- 2024-05-04
```
Comment (semorrison) [inline Mathlib/Topology/List.lean:230]:
```suggestion
@[deprecated (since := "2024-05-04")] alias continuousAt_removeNth := continuousAt_eraseIdx
```

File: Mathlib/Topology/List.lean [hunk 3]
```diff
@@ -149,19 +149,23 @@ theorem continuous_insertNth {n : ℕ} : Continuous fun p : α × List α => ins
...
-theorem continuous_removeNth {n : ℕ} : Continuous fun l : List α => removeNth l n :=
-  continuous_iff_continuousAt.mpr fun _a => tendsto_removeNth
-#align list.continuous_remove_nth List.continuous_removeNth
+@[deprecated] alias tendsto_removeNth := tendsto_eraseIdx -- 2024-05-04
+
+theorem continuous_eraseIdx {n : ℕ} : Continuous fun l : List α => eraseIdx l n :=
+  continuous_iff_continuousAt.mpr fun _a => tendsto_eraseIdx
+#align list.continuous_remove_nth List.continuous_eraseIdx
+
+@[deprecated] alias continuous_removeNth := continuous_eraseIdx -- 2024-05-04
```
Comment (semorrison) [inline Mathlib/Topology/List.lean:168]:
```suggestion
@[deprecated (since := "2024-05-04")] alias continuous_removeNth := continuous_eraseIdx
```

File: Mathlib/Data/Vector/Basic.lean [hunk 4]
```diff
@@ -556,35 +556,41 @@ theorem insertNth_val {i : Fin (n + 1)} {v : Vector α n} :
...
     · dsimp
-      rw [← List.insertNth_removeNth_of_le i j _ _ _]
+      rw [← List.insertNth_eraseIdx_of_le i j _ _ _]
       · rfl
       · simpa
       · simpa [not_lt] using hij
-#align vector.remove_nth_insert_nth' Vector.removeNth_insertNth'
+#align vector.remove_nth_insert_nth' Vector.eraseIdx_insertNth'
+
+@[deprecated] alias removeNth_insertNth' := eraseIdx_insertNth' -- 2024-05-04
```
Comment (semorrison) [inline Mathlib/Data/Vector/Basic.lean:593]:
```suggestion
@[deprecated (since := "2024-05-04")] alias removeNth_insertNth' := eraseIdx_insertNth'
```

File: Mathlib/Data/Vector/Basic.lean [hunk 5]
```diff
@@ -556,35 +556,41 @@ theorem insertNth_val {i : Fin (n + 1)} {v : Vector α n} :
...
-#align vector.remove_nth_insert_nth Vector.removeNth_insertNth
+@[deprecated] alias removeNth_val := eraseIdx_val -- 2024-05-04
 
-theorem removeNth_insertNth' {v : Vector α (n + 1)} :
+theorem eraseIdx_insertNth {v : Vector α n} {i : Fin (n + 1)} :
+    eraseIdx i (insertNth a i v) = v :=
+  Subtype.eq <| List.eraseIdx_insertNth i.1 v.1
+#align vector.remove_nth_insert_nth Vector.eraseIdx_insertNth
+
+@[deprecated] alias removeNth_insertNth := eraseIdx_insertNth -- 2024-05-04
```
Comment (semorrison) [inline Mathlib/Data/Vector/Basic.lean:570]:
```suggestion
@[deprecated (since := "2024-05-04")] alias removeNth_insertNth := eraseIdx_insertNth
```

File: Mathlib/Data/Vector/Basic.lean [hunk 6]
```diff
@@ -556,35 +556,41 @@ theorem insertNth_val {i : Fin (n + 1)} {v : Vector α n} :
...
+theorem eraseIdx_val {i : Fin n} : ∀ {v : Vector α n}, (eraseIdx i v).val = v.val.eraseIdx i
   | _ => rfl
-#align vector.remove_nth_val Vector.removeNth_val
+#align vector.remove_nth_val Vector.eraseIdx_val
 
-theorem removeNth_insertNth {v : Vector α n} {i : Fin (n + 1)} :
-    removeNth i (insertNth a i v) = v :=
-  Subtype.eq <| List.removeNth_insertNth i.1 v.1
-#align vector.remove_nth_insert_nth Vector.removeNth_insertNth
+@[deprecated] alias removeNth_val := eraseIdx_val -- 2024-05-04
```
Comment (semorrison) [inline Mathlib/Data/Vector/Basic.lean:563]:
```suggestion
@[deprecated (since := "2024-05-04")] alias removeNth_val := eraseIdx_val
```

File: Mathlib/Data/Vector.lean [hunk 7]
```diff
@@ -157,9 +157,11 @@ def take (i : ℕ) : Vector α n → Vector α (min i n)
...
 
 /-- Remove the element at position `i` from a vector of length `n`. -/
-def removeNth (i : Fin n) : Vector α n → Vector α (n - 1)
-  | ⟨l, p⟩ => ⟨List.removeNth l i.1, by rw [l.length_removeNth] <;> rw [p]; exact i.2⟩
-#align vector.remove_nth Vector.removeNth
+def eraseIdx (i : Fin n) : Vector α n → Vector α (n - 1)
+  | ⟨l, p⟩ => ⟨List.eraseIdx l i.1, by rw [l.length_eraseIdx] <;> rw [p]; exact i.2⟩
+#align vector.remove_nth Vector.eraseIdx
+
+@[deprecated] alias removeNth := eraseIdx -- 2024-05-04
```
Comment (semorrison) [inline Mathlib/Data/Vector.lean:164]:
```suggestion
@[deprecated (since := "2024-05-04")] alias removeNth := eraseIdx
```

File: Mathlib/Data/List/InsertNth.lean [hunk 8]
```diff
@@ -49,30 +49,36 @@ theorem length_insertNth : ∀ n as, n ≤ length as → length (insertNth n a a
...
+  | 0, 0, _ :: as, _, _ => by simp [eraseIdx, insertNth]
   | 0, m + 1, a :: as, _, _ => rfl
   | n + 1, m + 1, a :: as, has, hmn =>
     congr_arg (cons a) <|
-      insertNth_removeNth_of_ge n m as (Nat.lt_of_succ_lt_succ has) (Nat.le_of_succ_le_succ hmn)
-#align list.insert_nth_remove_nth_of_ge List.insertNth_removeNth_of_ge
+      insertNth_eraseIdx_of_ge n m as (Nat.lt_of_succ_lt_succ has) (Nat.le_of_succ_le_succ hmn)
+#align list.insert_nth_remove_nth_of_ge List.insertNth_eraseIdx_of_ge
+
+@[deprecated] alias insertNth_removeNth_of_ge := insertNth_eraseIdx_of_ge -- 2024-05-04
```
Comment (semorrison) [inline Mathlib/Data/List/InsertNth.lean:70]:
```suggestion
@[deprecated (since := "2024-05-04")] alias insertNth_removeNth_of_ge := insertNth_eraseIdx_of_ge
```

File: Mathlib/Data/List/InsertNth.lean [hunk 9]
```diff
@@ -49,30 +49,36 @@ theorem length_insertNth : ∀ n as, n ≤ length as → length (insertNth n a a
...
-theorem removeNth_insertNth (n : ℕ) (l : List α) : (l.insertNth n a).removeNth n = l := by
-  rw [removeNth_eq_nth_tail, insertNth, modifyNthTail_modifyNthTail_same]
+theorem eraseIdx_insertNth (n : ℕ) (l : List α) : (l.insertNth n a).eraseIdx n = l := by
+  rw [eraseIdx_eq_modifyNthTail, insertNth, modifyNthTail_modifyNthTail_same]
   exact modifyNthTail_id _ _
-#align list.remove_nth_insert_nth List.removeNth_insertNth
+#align list.remove_nth_insert_nth List.eraseIdx_insertNth
 
-theorem insertNth_removeNth_of_ge :
+@[deprecated] alias removeNth_insertNth := eraseIdx_insertNth -- 2024-05-04
```
Comment (semorrison) [inline Mathlib/Data/List/InsertNth.lean:57]:
```suggestion
@[deprecated (since := "2024-05-04")] alias removeNth_insertNth := eraseIdx_insertNth
```

File: Mathlib/Data/List/Basic.lean [hunk 10]
```diff
@@ -1470,15 +1470,11 @@ theorem modifyNthTail_modifyNthTail_same {f g : List α → List α} (n : ℕ) (
...
-theorem removeNth_eq_nthTail : ∀ (n) (l : List α), removeNth l n = modifyNthTail tail n l
-  | 0, l => by cases l <;> rfl
-  | n + 1, [] => rfl
-  | n + 1, a :: l => congr_arg (cons _) (removeNth_eq_nthTail _ _)
-#align list.remove_nth_eq_nth_tail List.removeNth_eq_nthTail
-
+#align list.remove_nth_eq_nth_tail List.eraseIdx_eq_modifyNthTail
 #align list.update_nth_eq_modify_nth List.set_eq_modifyNth
 
+@[deprecated] alias removeNth_eq_nthTail := eraseIdx_eq_modifyNthTail -- 2024-05-04
```
Comment (semorrison) [inline Mathlib/Data/List/Basic.lean:1476]:
```suggestion
@[deprecated (since := "2024-05-04")] alias removeNth_eq_nthTail := eraseIdx_eq_modifyNthTail
```

**Comment by semorrison** [comment]
bors merge
